US08097623B2
(a) 3-Formyl-1-(4-isopropoxyphenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)indole-2-carboxylic acid ethyl ester
Pd2(dba)3 (0.31 g, 0.034 mmol) and tricyclohexylphosphine (57 mg, 0.20 mmol) in dioxane (3.4 mL) was added under argon to a stirred mixture of 5-bromo-3-formyl-1-(4-isopropoxyphenyl)indole-2-carboxylic acid ethyl ester (581 mg, 1.35 mmol, see Example 86 step (b), KOAc (198 mg, 2.02 mmol), bis(pinacolato)diboron (375 mg, 1.46 mmol) and dioxane (10 mL) at 80° C. The mixture was stirred at 80° C. for 24 h, allowed to cool and filtered through Celite®. The solids were washed with EtOAc and the combined filtrates were concentrated and purified by chromatography to yield the sub-title compound. Yield 600 g (93%).

reactant | tricyclohexylphosphine | 0.20 mmol, 57 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | 5-bromo-3-formyl-1-(4-isopropoxyphenyl)indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1C=O)Br)C1=CC=C(C=C1)OC(C)C | C21H20BrNO4
reactant | KOAc | 2.02 mmol, 198 mg | CC(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.46 mmol, 375 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | dioxane | 3.4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.034 mmol, 0.31 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-Formyl-1-(4-isopropoxyphenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1C=O)B1OC(C(O1)(C)C)(C)C)C1=CC=C(C=C1)OC(C)C | C27H32BNO6
